US09120749B2
Ethyl 2-[(4-bromophenylamino)methylene]-4-methyl-3-oxopentanoate
A mixture of ethyl 4-methyl-3-oxopentanoate (31.6 g, 0.200 mol), triethyl orthoformate (41.6 mL, 0.250 mol), and 4-bromoaniline (36.1 g, 0.210 mol) was heated at 150° C. for 2 h with a Dean Stark trap. After this time triethyl orthoformate (20.8 mL) was added and the reaction mixture was stirred for 16 h. The reaction was cooled to room temperature, diluted with 1:1 methylene chloride/hexanes (200 mL), and filtered through a plug of silica. The filtrate was concentrated, triturated with hexanes and filtered to afford the desired product (33.2 g, 53%) as a pale yellow solid: 1H NMR (300 MHz, CDCl3) δ 12.80 (d, J=11.9 Hz, 1H), 8.46 (d, J=13.0 Hz, 1H), 7.55-7.42 (m, 2H), 7.12-6.96 (m, 2H), 4.27 (q, J=7.1 Hz, 2H), 3.89-3.72 (m, 1H), 1.35 (t, J=7.1 Hz, 3H), 1.13 (d, J=6.8 Hz, 6H).

reactant | ethyl 4-methyl-3-oxopentanoate | 0.200 mol, 31.6 g | CC(C(CC(=O)OCC)=O)C | C8H14O3
reactant | triethyl orthoformate | 0.250 mol, 41.6 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 4-bromoaniline | 0.210 mol, 36.1 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | triethyl orthoformate | 20.8 mL | C(OCC)(OCC)OCC | C7H16O3
product | Ethyl 2-[(4-bromophenylamino)methylene]-4-methyl-3-oxopentanoate | 33.2 g, 53% | BrC1=CC=C(C=C1)NC=C(C(=O)OCC)C(C(C)C)=O | C15H18BrNO3
